Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril / Metformin / Crestor / Pravachol / Penicillins / 
Tetracycline / Tetanus
 
Attending: ___.
 
Chief Complaint:
Fever and Right upper quadrant abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy
 
History of Present Illness:
___ year old woman s/p cholecystectomy on ___ for symptomatic 
cholelithiasis presents with continued dull intermittent RUQ 
pain and fever since the surgery.  She is now s/p ERCP with 
sphincterotomy.  No stones or sludge were seen.  The patient's 
pain is now controlled with pain medicines.

Review of systems is positive for intermittent headache just 
after surgery, but not now.  She also feels mildly depressed 
since her husband passed away ___ years ago.

Denies neck stiffness, chills, visual changes, nose or gum 
bleeding, chest pain, shortness of breath, orthopnea, lower 
extremity swelling, cough, nausea, vomiting, diarrhea, 
constipation, blood per rectum, melena, dysuria, hematuria, 
rash, joint or muscle pain, suicidal ideation.
 
Past Medical History:
Benign hypertension
Hyperlipidemia
GERD
Type 2 diabetes mellitus
S/p cholecystecomy
 
Social History:
___
Family History:
Mother with diabetes and heart disease. Father died of 
___ disease.
 
Physical Exam:
VS: T 97.0, BP 152/74, HR 60, RR 18, O2sat 94% on room air
GEN: Well appearing, comfortable
ENT: PERRL, EOMI, anicteric sclerae, MMM, no oropharyngeal 
lesions
NECK: supple, no LAD
CHEST: CTAB
C/V: RRR, normal s1 and s2, no murmurs
ABD: Soft, nontender, nondistended, bowel sounds present
EXT: No lower extremity edema
SKIN: Warm, dry
PSYCH: Calm, appropriate
NEURO: Alert and oriented x3, CN ___ intact, sensory normal, 
strength ___ throughout, 2+ B patellar DTR, fluent speech
 
___ Results:
Na 142, K 4.1, Cl 103, C02 29, BUN 14, Cr 0.8, Glu 158
ALT 47, AST 22, ALKP 132, TBIL 0.4
WBC 8.9, HGB 13.0, HCT 39.6, MCV 85, PLT 366
INR 1.1

ERCP ___:
Normal biliary tree
Otherwise normal ERCP to third part of the duodenum
 
Brief Hospital Course:
1. RUQ abdominal pain. Pt had an ERCP with sphincterotomy to 
look for retained stones.  No stones or sludge were seen.  
Admitted to observe for complications.
NPO overnight.  Pt tolerated diet in the morning with breakfast 
and with lunch.  Dishcarged home in stable condtion.  Advised to 
not take aspirin for 72 hours after ERCP.  

2. Benign hypertension: Continue Nadolol 20mg BID, Valsartan 
80mg Daily

3. Hyperlipidemia: Continue Fluvastatin 20mg Daily

4. Type 2 diabetes mellitus uncontrolled without complications: 
Hold Januvia until patient taking POs again. Insulin sliding 
scale.  D/c home with oral diabetes meds.
 
Medications on Admission:
Fluvastatin 20 mg PO Daily
Nadolol 20 mg PO BID
Januvia
Valsartan 80 mg PO Daily
Zolpidem 5mg PO QHS prn insomnia 
Aspirin 81 mg PO Daily
Coenzyme Q10 100 mg PO BID
 
Discharge Medications:
1. Nadolol 20 mg Tablet Sig: One (1) Tablet PO twice a day.  
2. Valsartan 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Fluvastatin 20 mg Capsule Sig: One (1) Capsule PO Daily ().  
4. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
5. Januvia  Oral
6. Coenzyme Q10 100 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
7. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day: Do 
not restart until ___ (3 days after ERCP).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Right upper quadrant abdominal pain
2. Status post ERCP with sphincterotomy

 
Discharge Condition:
Stable, tolerating food, walking, vital signs normal, pain free

 
Discharge Instructions:
You were admitted to undergo a procedure called ERCP.  An ERCP 
with sphincterotomy was performed and no retained stones or 
sludge.  You were observed overnight for complications.

MEDICATION INSTRUCTIONS:
1. DO NOT RESTART Aspirin until ___ (3 days after ERCP)
2. Resume all of your other home medications as previously 
prescribed
 
Followup Instructions:
___